US07989634B2
Intermediate 2: (3S)-1-Cbz-3-(cyclohexylamino)pyrrolidine
To a solution of (3S)-1-Cbz-3-aminopyrrolidine (4.11 g, 16.0 mmol) and cyclohexanone (2.36 g, 24.0 mmol) in DCE (50 mL) was slowly added NaBH(OAc)3 (6.78 g, 32.0 mmol) at rt. The reaction mixture was quenched after 4 h using a saturated aqueous NaHCO3 solution and extracted with DCM followed by EtOAc. The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The crude residue was purified by flash chromatography (EtOAc/Hex=2/1) to give the title compound (4.79 g, 98.1%).

reactant | (3S)-1-Cbz-3-aminopyrrolidine | 16.0 mmol, 4.11 g | C(=O)(OCC1=CC=CC=C1)N1C[C@H](CC1)N | C12H16N2O2
reactant | cyclohexanone | 24.0 mmol, 2.36 g | C1(CCCCC1)=O | C6H10O
reactant | NaBH(OAc)3 | 32.0 mmol, 6.78 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
product | (3S)-1-Cbz-3-(cyclohexylamino)pyrrolidine | 4.79 g, 98.1% | C(=O)(OCC1=CC=CC=C1)N1C[C@H](CC1)NC1CCCCC1 | C18H26N2O2
